US06410550B1
A) 2,2,2-Trifluoro-1-(4-hydroxy-5-nitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-ethanone
1-(4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone (900 mg, 2.61 mmol) and potassium acetate (KOAc) (2.6 g, 26.1 mmol) were dissolved in DMSO (10 mL) and warmed with stirring to 100° C. for 16 hours. The mixture was cooled and diluted with H2O (50 mL) then extracted with 80% EtOAc/hexanes (6×25 mL). The organic layer was washed with H2O (3×20 mL), dried (Na2SO4), filtered and concentrated and purified by chromatography to give an oil (575 mg, 70% ). (TLC 50% EtOAc/hexanes (NH3) Rf 0.56)

reactant | 1-(4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone | 2.61 mmol, 900 mg | [N+](=O)([O-])C1=CC=2C3CN(CC(C2C=C1[N+](=O)[O-])C3)C(C(F)(F)F)=O | C13H10F3N3O5
reactant | potassium acetate | 26.1 mmol, 2.6 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | H2O | 50 mL | O | H2O
product | 2,2,2-Trifluoro-1-(4-hydroxy-5-nitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-ethanone | 575 mg, 70% | FC(C(=O)N1CC2C=3C=C(C(=CC3C(C1)C2)O)[N+](=O)[O-])(F)F | C13H11F3N2O4
